US07732626B2
Methyl[(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate
A solution of methyl[(3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl]acetate (0.208 g, 1.00 mmol), {2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol (0.377 g, 1.00 mmol) and tributylphosphine (0.399 mL, 1.60 mmol) in toluene (16 mL) was stirred, 1,1′-(azodicarbonyl)dipiperidine (0.404 g, 1.60 mmol) was added, and the mixture was stirred at room temperature for 2 hr under nitrogen atmosphere. Hexane (8 mL) was added to the reaction mixture, the precipitated insoluble substance was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=30:70-70:30) to give the title compound (0.526 g, yield 93%) as a yellow oil.

reactant | methyl[(3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl]acetate | 1.00 mmol, 0.208 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O)=O | C11H12O4
reactant | {2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol | 1.00 mmol, 0.377 g | C(C)C1=C(C(=CC(=C1)OCCCS(=O)(=O)C)CC)C1=CC(=CC=C1)CO | C21H28O4S
reactant | tributylphosphine | 1.60 mmol, 0.399 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.60 mmol, 0.404 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | 8 mL | CCCCCC | C6H14
product | Methyl[(3S)-6-({2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 0.526 g, yield 93% | COC(C[C@@H]1COC2=C1C=CC(=C2)OCC=2C=C(C=CC2)C2=C(C=C(C=C2CC)OCCCS(=O)(=O)C)CC)=O | C32H38O7S
